US08669266B2
(i) 4-[2-(4-tert-Butoxycarbonyl-piperazin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid ethyl ester
To a solution of 990 mg 4-Carboxymethoxy-7-methyl-quinoline-2-carboxylic acid ethyl ester in 5 ml DMF were added 945 mg pentafluorophenol and 984 mg EDC. The mixture was stirred under exclusion of moisture until LCMS indicated complete conversion to the corresponding pentafluorophenolester. Tert-Butyl 1-piperazinecarboxylate (437 mg) was mixed with 0.8 ml N-ethylmorpholine and 10 ml DMF and this mixture added dropwise to the solution of the pentafluorophenolester. After 12 h the reaction mixture was diluted with DCM and washed with aqueous LiCl (4%) and saturated aqueous NaHCO3. The crude product obtained after evaporation of the solvent was purified by flash chromatography on silica eluting with ethyl acetate/heptane gradient. Yield: 988 mg.

reactant | 4-Carboxymethoxy-7-methyl-quinoline-2-carboxylic acid ethyl ester | 990 mg | C(C)OC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)O)C | C15H15NO5
reactant | pentafluorophenol | 945 mg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | Tert-Butyl 1-piperazinecarboxylate | 437 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | N-ethylmorpholine | 0.8 ml | C(C)N1CCOCC1 | C6H13NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | EDC | 984 mg
product | 4-[2-(4-tert-Butoxycarbonyl-piperazin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)N1CCN(CC1)C(=O)OC(C)(C)C)C | C24H31N3O6
